US06417212B1
D. 2-{3-[2-(2-Biphenyl-3-yl-5-methyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid
Under nitrogen, 2-{3-[2-(2-biphenyl-3-yl-5-methyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid ethyl ester (0.53 mmol) in ethanol (2.5 mL) and THF (2.5 mL) was treated with 2.0 N NaOH (2.0 mL). The reaction mixture was stirred at 55° C. for 1 h and concentrated in vacuo. The resulting slurry was suspended in ethyl acetate, acidified to pH 1 with 1N HCl, and partitioned. The organic layer was washed with brine, dried (Na2SO4), and concentrated in vacuo to provide the desired product. mp 67-71° C.; Rf=0.09 in 60% ethyl acetate/hexanes; 1H NMR (400 MHz, CDCl3) δ8.22 (s, 1H), 7.91 (d,J=7.2 Hz, 1H), 7.65-7.63 (m, 3H), 7.51-7.41 (m, 3H), 7.35 (t, J=7.2 Hz, 1H), 7.13 (t, J=8.0 Hz, 1H), 6.72 (s, 1H), 6.38 (d, J=8.0 Hz, 1H), 6.53 (d, J=8.0 Hz), 4.19 (t, J=7.4 Hz, 2H), 2.92 (t, J=7.4 Hz, 2H), 2.36 (s, 3H), 1.58 (s, 6H); MS (EI) 479.9 (M+Na)+, 457.9 (M+H)+.

reactant | 2-{3-[2-(2-biphenyl-3-yl-5-methyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid ethyl ester | 0.53 mmol | C(C)OC(C(C)(C)OC1=CC(=CC=C1)OCCC=1N=C(OC1C)C=1C=C(C=CC1)C1=CC=CC=C1)=O | C30H31NO5
reactant | NaOH | 2.0 N, 2.0 mL | [OH-].[Na+]
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 2-{3-[2-(2-Biphenyl-3-yl-5-methyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid | C1(=CC(=CC=C1)C=1OC(=C(N1)CCOC=1C=C(OC(C(=O)O)(C)C)C=CC1)C)C1=CC=CC=C1 | C28H27NO5
